US07419984B2
2-[4-{2-Amino-6-(2-benzyloxy-5-chloro-phenyl)-pyrimidin4-ylamino]-phenyl}-ethanol
Following the method described in Example 72, 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine and 2-(4-amino-phenyl)-ethanol provided the title compound (71% yield). 1H NMR (CD3OD) δ 2.85 (t, 2H, J=6.9 Hz, CH2), 3.78 (t, 2H, J=6.9 Hz, CH2), 5.27 (s, 2H, CH2), 6.42 (s, 1H, Ar), 7.28-7.30 (m, 2H, Ar), 7.32-7.36 (m, 2H, Ar), 7.39 (d, 4H, J=6.3 Hz, Ar), 7.58 (d, 2H, J=8.4 Hz, Ar), 7.68-7.70 (m, 2H, Ar).

reactant | 4-(2-benzyloxy-5-chloro-phenyl)-6-chloro-pyrimidin-2-ylamine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C1=NC(=NC(=C1)Cl)N | C17H13Cl2N3O
reactant | 2-(4-amino-phenyl)-ethanol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-{2-Amino-6-(2-benzyloxy-5-chloro-phenyl)-pyrimidin4-ylamino]-phenyl}-ethanol | 71% yield | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CCO)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C25H23ClN4O2
